US05852016
Sodium methanethiolate (22 mg, 0.312 mmol) was added to a stirred solution of 5-bromomethyl-6,7-dichloro-2,3-dimethoxyquinoxaline (see Preparation 28) (100 mg, 0.284 mmol) in dry dimethylformamide (5 ml) under nitrogen at room temperature. The mixture was stirred for 10 minutes and was then quenched with brine and extracted twice with dichloromethane. The combined extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with 1:1 hexane:dichloromethane) to give 6,7-dichloro-2, 3-dimethoxy-5-methylthiomethylquinoxaline (79 mg, 87%) as a white solid, m.p. 143°-5° C.

reactant | Sodium methanethiolate | 0.312 mmol, 22 mg | C[S-].[Na+]
reactant | 5-bromomethyl-6,7-dichloro-2,3-dimethoxyquinoxaline | 0.284 mmol, 100 mg | BrCC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C11H9BrCl2N2O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6,7-dichloro-2, 3-dimethoxy-5-methylthiomethylquinoxaline | 79 mg, 87% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CSC | C12H12Cl2N2O2S
